US06063810
5.5 g (18.9 mmol) of 2-(2-bromophenoxy)pentanoic acid chloride, 2.03 g (20.8 mmol) of N-methyl-O-methylhydroxylamine and 190 ml of dichloromethane are placed in a 500 ml round-bottomed flask. The solution is cooled to 0° C. and 5.8 ml (41.6 mmol) of triethylamine are slowly added. The solution is stirred for 1 hour at room temperature and then concentrated under vacuum. 100 ml of a molar hydrochloric acid solution are added to the residue and extraction is carried out with 3×100 ml of ethyl ether. The combined organic phases are dried over magnesium sulphate, filtered and concentrated under vacuum to give 6 g of N-methyl-O-methyl-2-(2-bromophenoxy)pentanohydroxamic acid in the form of a colourless oil; quantitative yield.

reactant | 2-(2-bromophenoxy)pentanoic acid chloride | 18.9 mmol, 5.5 g | BrC1=C(OC(C(=O)Cl)CCC)C=CC=C1 | C11H12BrClO2
reactant | N-methyl-O-methylhydroxylamine | 20.8 mmol, 2.03 g | CNOC | C2H7NO
reactant | triethylamine | 41.6 mmol, 5.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
product | N-methyl-O-methyl-2-(2-bromophenoxy)pentanohydroxamic acid | 6 g, quantitative yield | CN(OC)C(C(CCC)OC1=C(C=CC=C1)Br)=O | C13H18BrNO3
